 -------------- Lab1 TCFE -----------------

* NGSPICE simulation script

* ------ To run like lab assignement uncomment (unc)

* --------- Intructions to print Potential Diff ------------
*print v(n1, n2) = v(n1) - v(n2), if only v(n1) => v2 = 0 (GND) , page 302 ngspice manual

* forces current values to be saved
.options savecurrents

* Set Output Precision
.options nmdgt = 3

.control
.INCLUDE results.txt
.endc

* ------------- Independent Sources 
Vs n1vv GND 0

Cd n6vv n8vv {Cval}  

Vzero GND nzvv 0.0

* ------------- Dependent Sources 
Gb n6vv n3vv n2vv n5vv {Kbval}
*Ib = Kb*Vb - Kb = 7.26322828319k , Vb = To be calculated

Hd n5vv n8vv Vzero {Kdval}
*Vc = Kc*Ic - Kc = 05067652194k , Ic = To be Calculated (unc)
*Vc n5 n7 7.8 ; - Not known! Just for debugg
 

* -------------- Resistors - All in kOhms!
R1 n2vv n1vv {R1val}
R2 n3vv n2vv {R2val}
R3 n2vv n5vv {R3val}
R4 n5vv GND  {R4val}
R5 n6vv n5vv {R5val}
R6 nzvv n7vv {R6val}
R7 n8vv n7vv {R7val}

.op
.ic v(n1vv)=0 v(n2vv)=0 v(n3vv)=0 v(n5vv)=0 v(n6vv)=8.624089 v(n7vv)=0 v(n8vv)=0 
.end
.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo "---------Debugging Values-----------"

echo "Potential Difference"
echo "Voltage at Nodes"
*print @Q1[ic]
*print @Rf[i]

echo  "op_TAB"
print n1vv
print n2vv
print n3vv
print n5vv
print n6vv
print n7vv
print n8vv
print v(n5vv, n8vv)
print v(n2vv, n5vv)
print @r1[i]
print @r2[i]
print @r3[i]
print @r4[i]
print @r5[i]
print @r6[i]
print @r7[i]
print @Gb[i]
print @Hd[i]
print @Vs[i]

echo  "op_END"


echo " ------------- Trasient Analysis --------------------
tran 1e-5 20e-3 

hardcopy trans3.eps v(n6vv)
echo trans3_FIG

*quit might help?
.endc
*.end
